US07196111B2
A mixture of 1.0 g (2.7 mmol) of 3-(4-benzyloxy-phenyl)-2-cyclohexyl-3-oxo-propionic acid methyl ester, 340 mg (2.7 mmol) of 5-amino-1H-pyrazole-3-carboxylic acid amide, 51 mg (10 mol %) of p-toluenesulfonic acid monohydrate (PTSA), and 15 mL of toluene was heated at reflux for 72 h. The reaction mixture was then concentrated to a residue which chromatographed on silica gel (Biotage; gradient elution 15% ethyl acetate in dichloromethane to 6% methanol in dichloromethane) to give a residue which was further purified via reverse-phase chromatography (Gilson) to afford (after lyophilization) 22 mg (2% yield) of desired 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid amide as indicated by 1H-NMR; LC-MS calcd for C26H26N4O3 [M++H]+: 443.2, found: 443.2.

reactant | 3-(4-benzyloxy-phenyl)-2-cyclohexyl-3-oxo-propionic acid methyl ester | 2.7 mmol, 1.0 g | COC(C(C(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1CCCCC1)=O | C23H26O4
reactant | 5-amino-1H-pyrazole-3-carboxylic acid amide | 2.7 mmol, 340 mg | NC1=CC(=NN1)C(=O)N | C4H6N4O
reactant | p-toluenesulfonic acid monohydrate | 51 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid amide | 22 mg, 2% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1NC=2N(C(C1C1CCCCC1)=O)N=C(C2)C(=O)N | C26H26N4O3
